US04146631
2,4-Dihydroxybenzoic acid (48.0 g), anhydrous potassium carbonate (21.5 g), benzyl chloride (39.4 g) and dry sulpholane (400 ml) were heated together, with stirring, at 100° C. for 20 hours. The mixture was then poured into water (2 liters), the resulting oil was separated and the aqueous layer extracted with diethyl ether (300 ml). The ether extract was evaporated and its residue was combined with the said oil layer and washed with water (500 ml) to remove sulpholane, and then was washed with brine, the aqueous washings were extracted with diethyl ether (400 ml), and the combined oil and ether extract were dried and evaporated to give crude benzyl 2,4-dihydroxybenzoate (64 g), m.p. 83°-88° C. This ester (20 g) was treated with anhydrous potassium carbonate (17.0 g) and benzyl chloride (22.8 g) in dry sulpholane (300 ml) and the mixture was stirred and heated at 140° C. for 3 hours. It was allowed to cool and was then poured into water (1500 ml) and the mixture was neutralised to pH 7 by treatment with hydrochloric acid. The precipitated crude benzyl 2,4-dibenzyloxybenzoate was heated at reflux with a mixture of aqueous sodium hydroxide solution (2N; 400 ml) and ethanol (50 ml) for 10 hours. The solution was allowed to cool, and was then diluted with a large volume of water and acidified to pH 1 by treatment with hydrochloric acid (2N) to give a white solid which was filtered off and recrystallized from ethanol to give 2,4-dibenzyloxybenzoic acid (16.8 g), m.p. 126°-128° C.

reactant | 2,4-Dihydroxybenzoic acid | 48.0 g | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | potassium carbonate | 21.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 39.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 17.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 22.8 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloric acid | Cl | ClH
solvent | sulpholane | 300 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | sulpholane | 400 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | water | 1500 ml | O | H2O
solvent | water | 2 liters | O | H2O
product | 2,4-dibenzyloxybenzoic acid | 16.8 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O4
